US04904653
6-Methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine-2-carboxaldehyde
Phosphorous oxychloride (4.6 ml) was added dropwise to a stirred solution of 6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine (3.98 g) in dimethylformamide (17 ml) cooled in an ice bath. The mixture was heated to 60° for 18 hours and then evaporated. The residue was dissolved in iced water (50 ml), basified with 2M sodium hydroxide to pH~12 and extracted with dichloromethane (2×100 ml). The extracts were dried, filtered and evaporated to a brown oil. Crystallisation from hexane gave the title product as yellow crystals (m.p. 88°).

reactant | Phosphorous oxychloride | 4.6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 6-methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine | 3.98 g | CN1CC(C2=C(CC1)C=CS2)C2=CC=CC=C2 | C15H17NS
reactant | dimethylformamide | 17 ml | CN(C=O)C | C3H7NO
product | 6-Methyl-8-phenyl-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine-2-carboxaldehyde | CN1CC(C2=C(CC1)C=C(S2)C=O)C2=CC=CC=C2 | C16H17NOS
